US06140330
To a suspension of 3-methoxy-4-methoxycarbonylcinnamic acid (8.35 g) in acetic acid (200 ml) is added 10% palladium-carbon (1.0 g), and the mixture is subjected to hydrogenation at room temperature. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The residue is crystallized from diethyl ether-n-hexane to give 3-(3-methoxy-4-methoxycarbonylphenyl)propionic acid (7.5 g).

reactant | 3-methoxy-4-methoxycarbonylcinnamic acid | 8.35 g | COC=1C=C(C=CC(=O)O)C=CC1C(=O)OC | C12H12O5
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | 3-(3-methoxy-4-methoxycarbonylphenyl)propionic acid | 7.5 g | COC=1C=C(C=CC1C(=O)OC)CCC(=O)O | C12H14O5
